US08420655B2
To a solution of 2-formyl-4-methoxyphenylboronic acid (200 mg, 1.11 mmol) in DMF (10 mL) and H2O (2 mL) are added 2-bromo-5-methylthiazole (217 mg, 1.22 mmol), Pd(PPh3)4 (128 mg, 0.11 mmol) and K2CO3 (230 mg, 1.67 mmol) at room temperature. The solution is heated to 120° C. for 1 hour in a microwave reactor. The solution is cooled down and 3-mercaptopropyl-functionalized silica gel (500 mg) is added. The solution is stirred for 15 minutes and filtered. The filtrate is washed with H2O (15 mL) and is extracted with EtOAc (3×15 mL). The combined organic layer is dried with MgSO4 and is filtered. The filtrate is concentrated and the residue is purified by silica gel flash chromatography eluting with 50% EtOAc in heptane to afford 5-methoxy-2-(5-methyl-thiazol-2-yl)-benzaldehyde (160 mg, 63%) as a white foam.

reactant | 2-formyl-4-methoxyphenylboronic acid | 1.11 mmol, 200 mg | C(=O)C1=C(C=CC(=C1)OC)B(O)O | C8H9BO4
reactant | 2-bromo-5-methylthiazole | 1.22 mmol, 217 mg | BrC=1SC(=CN1)C | C4H4BrNS
reactant | K2CO3 | 1.67 mmol, 230 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.11 mmol, 128 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-methoxy-2-(5-methyl-thiazol-2-yl)-benzaldehyde | 160 mg, 63% | COC=1C=CC(=C(C=O)C1)C=1SC(=CN1)C | C12H11NO2S
